US03994961
To a flask equipped with a stirrer, dropping funnel, condenser and gas inlet tube maintained under a nitrogen atmosphere there is added at room temperature 40.0 g. (0.28 mole) of o-methyl-N-methyl benzamide and 250 ml. of anhydrous tetrahydrofuran. The reaction flask is immersed in an ice bath and cooled to an internal temperature of 5° C. Stirring is initiated and 360 ml. of 1.6 M. n-butyllithium (0.616 mole) in hexane is added dropwise for about 1 hour maintaining the temperature below 8° C. The resulting red dilithio salt (compound VIII) is stirred at 5° C. for 1 additional hour and the reaction flask is then immersed in a dry-ice acetone bath and cooled to an internal temperature of -30° C. To the cold reaction mixture a solution of 49.7 g. (0.28 mole) 3-dimethylaminopropiophenone in 140 ml. anhydrous tetrahydrofuran is added dropwise in ca. 45 minutes maintaining the temperature between -30° C. and -20° C. The resulting reaction mixture is stirred at -25° C. for 1 hour, allowed to warm to -10° C. in ca. 1 hour, and then treated with 200 ml. of saturated aqueous ammonium chloride while maintaining the temperature below 0° C. The resulting solid is filtered, washed thoroughly with water and recrystallized from methylene chloride-ether (1:1) to give 2-(β-[2-dimethylaminoethyl]-β-hydroxyphenethyl)-N-methylbenzamide; m.p. 139.5 to 140.5° C.

reactant | o-methyl-N-methyl benzamide | 0.28 mole | CC1=C(C(=O)NC)C=CC=C1 | C9H11NO
reactant | n-butyllithium | 0.616 mole | C(CCC)[Li]
reactant | 3-dimethylaminopropiophenone | 0.28 mole | CN(CCC(=O)C1=CC=CC=C1)C | C11H15NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(β-[2-dimethylaminoethyl]-β-hydroxyphenethyl)-N-methylbenzamide | CN(CCC(CC1=C(C(=O)NC)C=CC=C1)(C1=CC=CC=C1)O)C | C20H26N2O2
